US06617339B1
3-Fluoro-4-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl)nitrobenzene
3,4-Difluoronitrobenzene (16.03 g, 0.101 M) was dissolved in acetonitrile (300 ml), and treated with N,N-diisopropylethylamine (32.63 g, 0.253 M) and (3R)-3-t-butoxycarbonylaminopyrrolidine (20.65 g, 0.111 M). The mixture was stirred and heated to reflux for 18 hours. Solvent was evaporated, and the residue treated with EtOAc (300 ml) and water (200 ml). The organic laver was washed with water (1 50 ml). citric acid solution (10% in water, 2×150 ml), and dried (magnesium sulfate). Evaporation gave the desired product as a yellow solid (32.7 g), of sufficient quality for use without purification. MS (ESP): 326 (MH+) for C15H20FN3O4.

reactant | 3,4-Difluoronitrobenzene | 0.101 M, 16.03 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | N,N-diisopropylethylamine | 0.253 M, 32.63 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3R)-3-t-butoxycarbonylaminopyrrolidine | 0.111 M, 20.65 g | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 3-Fluoro-4-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl)nitrobenzene | 32.7 g | FC=1C=C(C=CC1N1C[C@@H](CC1)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C15H20FN3O4
